US06903120B2
1-(3-Methanesulfonyl-phenyl)-piperazine
A mixture of 1-bromo-3-methanesulfonyl-benzene (0.8 g), piperazine (1 g), sodium tert-butoxide (0.5 g) BINAP (42 mg) and [Pd2(dba)3 (38 mg) in toluene (7 ml) was heated under argon at 80° C. for 24 h. After cooling to room temperature, the solvent was evaporated to dryness. The crude material was purified by flash chromatography on silica gel using EtOAc. Yield 0.48 g: MS m/z (rel. intensity, 70 eV) 240 (M+, 17), 199 (12), 198 (bp), 119 (9), 56 (7).

reactant | 1-bromo-3-methanesulfonyl-benzene | 0.8 g | BrC1=CC(=CC=C1)S(=O)(=O)C | C7H7BrO2S
reactant | piperazine | 1 g | N1CCNCC1 | C4H10N2
reactant | sodium tert-butoxide | 0.5 g | CC(C)([O-])C.[Na+]
solvent | toluene | 7 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 38 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1-(3-Methanesulfonyl-phenyl)-piperazine | CS(=O)(=O)C=1C=C(C=CC1)N1CCNCC1 | C11H16N2O2S
